US08058299B2
To a solution of racemic 2-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-cyclopentanecarboxylic acid ethyl ester (100 mg, 0.171 mmol) in 10 mL ethanol was added a solution of lithium hydroxide (14 mg, 0.342 mmol) in 5 mL water. The reaction mixture was stirred at room temperature for 4 hrs and then heated to 50° C. for 1 hr. The reaction mixture was cooled, diluted with water, and washed with diethyl ether. The pH of the aqueous layer was adjusted to pH 5 with 1N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layers were dried over magnesium sulfate, filtered and evaporated to dryness. The residue was purified by flash chromatography (eluted with ethyl acetate/methylene chloride) to yield rac-2-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-cyclopentanecarboxylic acid (27 mg, 28%). ES-MS calcd for C28H27F3N4O5 (m/e) 556.54, obsd 557.1 (M+H).

reactant | racemic 2-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-cyclopentanecarboxylic acid ethyl ester | 0.171 mmol, 100 mg | C(C)OC(=O)C1C(CCC1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C30H31F3N4O5
reactant | lithium hydroxide | 0.342 mmol, 14 mg | [OH-].[Li+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | rac-2-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-cyclopentanecarboxylic acid | 27 mg, 28% | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)C1C(CCC1)C(=O)O)C(F)(F)F | C28H27F3N4O5
